US07776905B2
1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride (45 mg, 0.20 mmol) and methyl 5-amino-2-tert-butyl-1H-indole-7-carboxylate (49.3 mg, 0.200 mmol) were dissolved in N,N-dimethylformamide (2 mL) containing a magnetic stir bar and triethylamine (0.084 mL, 0.60 mmol). The resulting solution was allowed to stir for 10 minutes at room temperature. The crude product was then purified by preparative HPLC using a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield methyl 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2-tert-butyl-1H-indole-7-carboxylate. ESI-MS m/z calc. 434.2, found 435.5. (M+1)+. Retention time of 2.12 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride | 0.20 mmol, 45 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)Cl | C11H9ClO3
reactant | methyl 5-amino-2-tert-butyl-1H-indole-7-carboxylate | 0.200 mmol, 49.3 mg | NC=1C=C2C=C(NC2=C(C1)C(=O)OC)C(C)(C)C | C14H18N2O2
reactant | triethylamine | 0.60 mmol, 0.084 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | methyl 5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2-tert-butyl-1H-indole-7-carboxylate | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=C(C2)C(=O)OC)C(C)(C)C | C25H26N2O5
